US04431653
A mixture of 4-cyanomethyl piperidine-1-carboxaldehyde (4. g, 0.026 M) and 1,3-diaminopropane mono p-toluenesulfonate (7.3 g, 0.052 M) was heated at 100° C. for 1/2 hrs and 200° C. for 2 hrs. The reaction mixture was dissolved in ethanol (50 ml) and sodium ethoxide (0.052 M) was added. The mixture was filtered and the filtrate was stripped to dryness and distilled from about 170° to about 190° C./0.2 mmHg to yield 1,4,5,6-tetrahydro-2-[(4-piperidinyl)methyl]-pyrimidine (2.7 g, 56.7% yield). This compound was characterized as dihydrochloride salt, [mp 279°-28]° C. (EtOH).

reactant | 4-cyanomethyl piperidine-1-carboxaldehyde | 0.026 M | C(#N)CC1CCN(CC1)C=O | C8H12N2O
reactant | 1,3-diaminopropane mono p-toluenesulfonate | 0.052 M, 7.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NCCCN
reactant | sodium ethoxide | 0.052 M | [O-]CC.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,4,5,6-tetrahydro-2-[(4-piperidinyl)methyl]-pyrimidine | 2.7 g, 56.7% yield | N1CCC(CC1)CC=1NCCCN1 | C10H19N3
